US08420629B2
Step 8. (3-[tert-butyl(diphenyl)silyl]oxycyclobutylidene)acetonitrile
To 1.0 M of potassium tert-butoxide in tetrahydrofuran (1.2 mL) was added dropwise, at 0° C., diethyl cyanomethylphosphonate (0.19 mL, 0.0012 mol). The reaction was warmed to rt and 30 min later cooled to 0° C. again. To the reaction mixture was added a solution of 3-[tert-butyl(diphenyl)silyl]oxycyclobutanone (0.25 g, 0.00077 mol) in THF (5 mL). The reaction was allowed to warm up to rt gradually and stirred at rt for 2 h. The reaction was quenched with saturated aq. NH4Cl, extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, concentrated. The resultant residue was purified with Combiflash (silica gel, 0-20% EtOAc/Hex) to give the desired product (0.2 g) as colorless oil. LCMS calculated for C22H26NOSi(M+H)+: 348.1 Found: 348.3.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.0012 mol, 0.19 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 3-[tert-butyl(diphenyl)silyl]oxycyclobutanone | 0.00077 mol, 0.25 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC(C1)=O | C20H24O2Si
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-[tert-butyl(diphenyl)silyl]oxycyclobutylidene)acetonitrile | 0.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC(C1)=CC#N | C22H25NOSi
